US08563575B2
Lithium aluminum hydride (33.2 mg) was added to a solution of ethyl {2-[4-(1-ethyl-2-oxo-1,2-dihydro-3H-imidazo[4,5-b]pyridin-3-yl)phenoxy]-1H-benzimidazol-1-yl}acetate (200 mg) in THF (4 mL) at 0° C. The mixture was stirred at room temperature under a dry atmosphere (CaCl2 tube) for 30 min. The mixture was quenched with EtOAc and concentrated in vacuo. The residue was purified by column chromatography (silica gel, eluted with 10%-50% EtOAc in hexane) to give 1-ethyl-3-(4-{[1-(2-hydroxyethyl)-1H-benzimidazol-2-yl]oxy}phenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (100 mg) as colorless crystals.

reactant | Lithium aluminum hydride | 33.2 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl {2-[4-(1-ethyl-2-oxo-1,2-dihydro-3H-imidazo[4,5-b]pyridin-3-yl)phenoxy]-1H-benzimidazol-1-yl}acetate | 200 mg | C(C)N1C(N(C2=NC=CC=C21)C2=CC=C(OC1=NC3=C(N1CC(=O)OCC)C=CC=C3)C=C2)=O | C25H23N5O4
reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 1-ethyl-3-(4-{[1-(2-hydroxyethyl)-1H-benzimidazol-2-yl]oxy}phenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 100 mg | C(C)N1C(N(C2=NC=CC=C21)C2=CC=C(C=C2)OC2=NC1=C(N2CCO)C=CC=C1)=O | C23H21N5O3
